US07737149B2
5-(1,3,4,6,7,8,9,9a-Octahydropyrido[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide
Trimethylaluminium (2M in toluene, 9.64 ml, 19.28 mmol) was added dropwise to a stirred suspension of 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (1.91 g, 7.71 mmol) and methyl 5-chloropyrazine-2-carboxylate (1.33 g, 7.71 mmol) in anhydrous toluene (38.6 ml) at ambient temperature. The resulting solution was then stirred under nitrogen at ambient temperature for 18 h. The reaction was incomplete so the temperature was increased to 60° C. and the reaction mixture was stirred for a further 3 h. The reaction mixture was quenched with methanol (10 mL) and HCl (2M aqueous solution). The mixture was diluted with EtOAc (100 mL) and water (250 mL) and then acidified with HCl (2N aqueous solution). The organic layer was removed and the aqueous further extracted with EtOAc (2×100 mL). The combined organics were washed with water (200 mL), brine (200 mL) dried over MgSO4 and concentrated under reduced pressure. Upon concentration a precipitate formed. The precipitate was collected by filtration, washed with MeOH (10 mL) and air dried to afford the desired compound (1.88 g, 63%) as a yellow solid, which was used without further purification.

reactant | Trimethylaluminium | 19.28 mmol, 2M, 9.64 ml | C[Al](C)C
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 7.71 mmol, 1.91 g | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | methyl 5-chloropyrazine-2-carboxylate | 7.71 mmol, 1.33 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | toluene | 38.6 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(1,3,4,6,7,8,9,9a-Octahydropyrido[2,1-c]pyrazin-2-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 1.88 g, 63% | C1N(CCN2C1CCCC2)C=2N=CC(=NC2)C(=O)NC=2NN=C(C2)CCC2=CC(=CC(=C2)OC)OC | C26H33N7O3
